US04588749
N-(2-(2,4-Dimethylphenyl)-1-methylethyl)-2-hydroxy-2-phenyl ethanamine (49:51)
The title compound was reprepared as a 49:51 mixture of diastereoisomers m.p. 58-63 in the manner described in Example 3 using 2-hydroxy-2-phenylethanamine and (2,4-dimethylphenyl)propanone. 'Hnmr identical with that of Example 32.

reactant | 2-hydroxy-2-phenylethanamine | OC(CN)C1=CC=CC=C1 | C8H11NO
reactant | (2,4-dimethylphenyl)propanone | CC1=C(C=CC(=C1)C)CC(C)=O | C11H14O
product | N-(2-(2,4-Dimethylphenyl)-1-methylethyl)-2-hydroxy-2-phenyl ethanamine | CC1=C(C=CC(=C1)C)CC(C)NCC(C1=CC=CC=C1)O | C19H25NO
